US08211908B2
To a solution of 0.20 g of 3-amino-2-(1,3-dioxolan-2-ylmethyl)aminopyridine in 2 mL of ethanol, 0.25 g of a 45 to 50% toluene solution of ethyl oxoacetate was added, and the mixture was heated under reflux while stirring for 1 hour 30 minutes. The reaction mixture was cooled to room temperature, and thereto were added water and ethyl acetate. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with chloroform:methanol=100:0 to 90:10 to obtain 0.16 g of 4-(1,3-dioxolan-2-ylmethyl)pyrido(2,3-b)pyrazin-3(4H)-one as a light brown solid.

reactant | 3-amino-2-(1,3-dioxolan-2-ylmethyl)aminopyridine | 0.20 g | NC=1C(=NC=CC1)NCC1OCCO1 | C9H13N3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl oxoacetate | O=CC(=O)OCC | C4H6O3
reactant | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1,3-dioxolan-2-ylmethyl)pyrido(2,3-b)pyrazin-3(4H)-one | 0.16 g | O1C(OCC1)CN1C2=C(N=CC1=O)C=CC=N2 | C11H11N3O3
